US05250561
A solution of 2.80 g (25 mmol) of cycloheptanone and 4.71 g (25 mmol) of ethyl (tetrahydropyranyloxy)acetate (Ireland, R. E.; Wipf, P. Tetrahedron Lett., 1989, 30, 919-22) in 20 mL of Et2O was added over the course of 1 h to an ice-cold, stirring mixture of hexane-washed NaH and 0.12 mL (2 mmol, 0.092 g) of absolute EtOH in 10 mL of Et2O under N2. The light brown mixture was allowed to warm to room temperature and was stirred overnight. MeOH (5 mL) was added and the solution was poured onto 200 mL of saturated aqueous NH4Cl. After acidification to pH 2 with 1N aqueous HCl, the mixture was extracted with Et2O. The organic layer was washed with brine, dried over Na2SO4, and concentrated to give 5.61 g of crude 2-[(tetrahydropyranyloxy)acetyl]cycloheptanone as a light brown oil.

reactant | cycloheptanone | 25 mmol, 2.80 g | C1(CCCCCC1)=O | C7H12O
reactant | ethyl (tetrahydropyranyloxy)acetate | 25 mmol, 4.71 g | O1C(CCCC1)OCC(=O)OCC | C9H16O4
reactant | NaH | [H-].[Na+]
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | Et2O | 20 mL | CCOCC | C4H10O
solvent | Et2O | 10 mL | CCOCC | C4H10O
catalyst | EtOH | 2 mmol, 0.12 mL, 0.092 g | CCO | C2H6O
solvent | MeOH | 5 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | 2-[(tetrahydropyranyloxy)acetyl]cycloheptanone | 5.61 g | O1C(CCCC1)OCC(=O)C1C(CCCCC1)=O | C14H22O4
